US06329392B1
1-Benzoyl-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.48 g, 1.1 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidine (0.54 g, 1.7 mmol), and sodium bicarbonate (0.235 g, 2.22 mmol) in tetrahydrofuran/water (15/4) (50 mL). Heat to reflux. After 72 hours, cool to ambient temperature and evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane and 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give a solid. Combine the solid with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a solid residue. Dry the residue in vacuo at 82° C. to give the title compound: Rf=0.32 (silica gel, 5/1 ethyl acetate/methanol); mp; 111-114° C. HRMS (FAB+): calculated 663.334502. Found 663.334660.

reactant | 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.1 mmol, 0.48 g | C(C1=CC=CC=C1)(=O)N1CC(CC1)(CCS(=O)(=O)C)C1=CC(=C(C=C1)OC)OC | C22H27NO5S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidine | 1.7 mmol, 0.54 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C3(CCNCC3)O)C=C1 | C19H20FN3O
reactant | sodium bicarbonate | 2.22 mmol, 0.235 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran water | 50 mL | O1CCCC1.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Benzoyl-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazol-2-yl]-4-hydroxy-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)OC)OC)CCN1CCC(CC1)(O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C40H43FN4O4
